US05561126
1,4-Dibromo-2-(2-oxoazetidine-4-yloxy)butane (compound 5, X=Br, Y=CH2Br)
A mixture of 1,4-dibromo-2-butanol (5.8 ml), 4-Acetoxyazetidinone (6.46 g), Palladium acetate (450 mg), Triethylamine (7 ml) and dry Benzene (75 ml) was stirred at room temperature under nitrogen for 23 hrs. Resulting solid was filtered off and filtrate was washed with water, brine and then dried over Magnesium sulfate. The residual oil, after evaporation, was purified by column chromatography using Hexane and Ethyl acetate (2:1) and the title compound was obtained. Yield: 5.88 g (78%). NMR (CDCl3): 2.05-2.17 (2H, m), 2.87-3.27 (2H, m), 3.42-3.60 (4H, m), 3.90-4.02 (1H, m), 5.23-5.33 (1H, m), 6.53 (1H, br, s). IR (Neat), cm-1 : 3260, 1771.

reactant | 1,4-dibromo-2-butanol | 5.8 ml | BrCC(CCBr)O | C4H8Br2O
reactant | 4-Acetoxyazetidinone | 6.46 g | C(C)(=O)OC1CC(N1)=O | C5H7NO3
reactant | Triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
catalyst | Palladium acetate | 450 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 1,4-Dibromo-2-(2-oxoazetidine-4-yloxy)butane | BrCC(CCBr)OC1CC(N1)=O | C7H11Br2NO2
